US09359375B2
A mixture of tert-butyl (1S,2R)-2-(3-bromo-4-cyanophenylamino)cyclohexylcarbamate (150 mg, 0.380 mmol), 1-methyl-1H-pyrazol-4-amine dihydrochloride (80 mg, 0.470 mmol), sodium phenoxide trihydrate (300 mg, 1.76 mmol), xantphos (30 mg, 0.051 mmol) and Pd2(dba)3 (30 mg, 0.032 mmol) in dioxane (3 mL) was degassed with Ar, then was heated at 170 C for 30 min by microwave. It was concentrated in vacuo. The residue was purified by HPLC to give tert-butyl (1S,2R)-2-(4-cyano-3-(1-methyl-1H-pyrazol-4-ylamino)phenylamino)cyclohexylcarbamate (50 mg).

reactant | tert-butyl (1S,2R)-2-(3-bromo-4-cyanophenylamino)cyclohexylcarbamate | 0.380 mmol, 150 mg | BrC=1C=C(C=CC1C#N)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C18H24BrN3O2
reactant | 1-methyl-1H-pyrazol-4-amine dihydrochloride | 0.470 mmol, 80 mg | Cl.Cl.CN1N=CC(=C1)N
reactant | sodium phenoxide trihydrate | 1.76 mmol, 300 mg | O.O.O.[O-]C1=CC=CC=C1.[Na+]
reactant | xantphos | 0.051 mmol, 30 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.032 mmol, 30 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl (1S,2R)-2-(4-cyano-3-(1-methyl-1H-pyrazol-4-ylamino)phenylamino)cyclohexylcarbamate | 50 mg | C(#N)C1=C(C=C(C=C1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC=1C=NN(C1)C | C22H30N6O2
